US07399759B2
tert-Butyl (6-cyano-2-pyridyl)thioacetate
(6-Cyano-2-pyridyl)thioacetic acid (4.56 g, 23.5 mmol) and concentrated sulfuric acid (1 ml) were added to dichloromethane (300 ml), and isobutene was added thereto. The reaction mixture was sealed and stirred at room temperature for 18 hrs. Water was added to the reaction mixture. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate. The solvent was evaporated to give the titled compound (5.77 g, 98%) as a pale yellow oil.

reactant | (6-Cyano-2-pyridyl)thioacetic acid | 23.5 mmol, 4.56 g | C(#N)C1=CC=CC(=N1)CC(=S)O | C8H6N2OS
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
reactant | isobutene | C=C(C)C | C4H8
solvent | Water | O | H2O
product | tert-Butyl (6-cyano-2-pyridyl)thioacetate | 5.77 g, 98% | C(#N)C1=CC=CC(=N1)CC(=S)OC(C)(C)C | C12H14N2OS
